US07230098B2
To an ice cooled solution of (2,6-dichloro-phenyl)-methanol (5 g, 28.2 mmol) in anhydrous tetrahydrofuran (200 mL) was added sodium hydride (1.13 g, 28.2 mmol, 60% disp.) slowly under nitrogen atmosphere. After stirring for 30 minutes, 3,5-dibromo-pyrazin-2-ylamine (7.08 g, 28.2 mmol) in anhydrous tetrahydrofuran (50 mL) was added via an addition funnel. Once the addition was complete the ice bath was removed and the reaction was refluxed under nitrogen and monitored by reversed phase HPLC. After 18 hr HPLC showed that the majority of the starting 3,5-dibromo-pyrazin-2-ylamine had been consumed and the reaction was allowed to cool to room temperature. The reaction mixture was concentrated in vacuum until 50 mL remained. The mixture was diluted with ethyl acetate (200 mL) and extracted with 50% brine (2×200 mL). The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuum. The crude product was purified using a silica gel column eluting with 1:1 ethyl acetate/dichloromethane to yield 5-bromo-3-(2,6-dichloro-benzyloxy)-pyrazin-2-ylamine as a white solid (8.17 g, 83% yield).

reactant | (2,6-dichloro-phenyl)-methanol | 28.2 mmol, 5 g | ClC1=C(C(=CC=C1)Cl)CO | C7H6Cl2O
reactant | sodium hydride | 28.2 mmol, 1.13 g | [H-].[Na+]
reactant | 3,5-dibromo-pyrazin-2-ylamine | 28.2 mmol, 7.08 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5-bromo-3-(2,6-dichloro-benzyloxy)-pyrazin-2-ylamine | 8.17 g, 83% yield | BrC=1N=C(C(=NC1)N)OCC1=C(C=CC=C1Cl)Cl | C11H8BrCl2N3O
